US06225465B1
Preparation of Methyl 2,3,4,5-tetrahydro-7-bromo-4-methyl-3-oxo-1H-1,4-benzodiazepine-2-acetate
Methyl 2,3,4,5-tetrahydro-4-methyl-3-oxo-1H-1,4-benzodiazepine-2-acetate (100 g, 0.4 mole) and n-Bu4 N Br (13 g, 0.04 mole) were added to CH2Cl2 (1.0 liter) and refluxed for 0.5 hr. The reaction mixture was cooled to 28° C. and N-Bromosuccinimide added in small portions (72.8 g, 0.41 mole). The reaction was stirred at ambient temperature for 1.0 hr then washed with 5% NaHCO3 solution (400 ml) then water (2×400 ml) CH2Cl2 (800 ml) was replaced with hexane (800 ml) via ‘put and take’ distillation, the resulting slurry was cooled, filtered and washed with hexane. The product was dried in vacuo to yield the title compound (123 g, 93%). HPLC analysis showed 0.7% residual starting material and 0.7% 7,9-dibromide.

reactant | Methyl 2,3,4,5-tetrahydro-4-methyl-3-oxo-1H-1,4-benzodiazepine-2-acetate | 0.4 mole, 100 g | CN1C(C(NC2=C(C1)C=CC=C2)CC(=O)OC)=O | C13H16N2O3
reactant | N-Bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | CH2Cl2 | 1.0 liter | C(Cl)Cl | CH2Cl2
product | Methyl 2,3,4,5-tetrahydro-7-bromo-4-methyl-3-oxo-1H-1,4-benzodiazepine-2-acetate | 123 g, 93% | BrC=1C=CC2=C(CN(C(C(N2)CC(=O)OC)=O)C)C1 | C13H15BrN2O3
